US08710242B2
5.00 g (20.57 mmol) of 3-bromo-5-fluorobenzotrifluoride were stirred in 60 ml of dry ether and admixed dropwise at −78° C. under a protective gas atmosphere (argon) with 1.33 ml (20.75 mmol) of ten-butyllithium solution [cf. also trifluoroacylation: H. K. Nair. D. M. Quinn Bioorganic & Medicinal Chemistry Letters 3(12), 2619-22 (1993): G. J. Pork et al. J. Org. Chem. 22, 993 (1957)]. Subsequently, the reaction mixture was stirred at −78° C., for 45 minutes and then added dropwise, with the aid of a syringe, in portions at −78° C., to a solution of 3.71 g (26.17 mmol) of ethyl trifluoroacetate in 40 ml of dry ether. Thereafter, the entire reaction mixture was stirred first at −78° C. for 10 minutes and then at room temperature for one hour. For workup, the entire reaction mixture was added to water and extracted with ether. The organic phase was removed and dried at 40° C. under reduced pressure (not less than 10 mbar owing to the high volatility of the compound). This gave 4.06 g (75.9% of theory) of 2,2,2-trifluoro-[3-fluoro-5-(trifluoromethyl)phenyl]-ethanone, which was isolated as the hydrate.

reactant | 3-bromo-5-fluorobenzotrifluoride | 20.57 mmol, 5.00 g | BrC=1C=C(C=C(C1)F)C(F)(F)F | C7H3BrF4
reactant | butyllithium | C(CCC)[Li]
reactant | ethyl trifluoroacetate | 26.17 mmol, 3.71 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | water | O | H2O
solvent | ether | 60 ml | CCOCC | C4H10O
solvent | ether | 40 ml | CCOCC | C4H10O
product | 2,2,2-trifluoro-[3-fluoro-5-(trifluoromethyl)phenyl]-ethanone | 4.06 g, 75.9% | FC(C(=O)C1=CC(=CC(=C1)C(F)(F)F)F)(F)F | C9H3F7O
